US05444083
(4) trans-3-Benzyl-4-(3,4-dimethoxyphenyl)-pyrrolidine
10 ml of 1M borane/THF complex was added to 10 ml of a solution of 0.81 g (2.6 mmol) of trans-3-benzyl-4-(3,4-dimethoxyphenyl)-2-pyrrolidone in THF, and the mixture was heated under reflux for 6 hr. After the completion of the cooling, 10 ml of a 6N hydrochloric acid solution was dropwise added at room temperature carefully, and the mixture was stirred at 60° C. for 30 min. THF was distilled off in vacuo, and the residue was basified with a 10% aqueous sodium hydroxide solution and extracted twice with methylene chloride. The resultant organic phase was dried over anhydrous sodium sulfate, and the solvent was distilled off in vacuo to prepare a crude product. The crude product was adsorbed on silica gel to elute impurities (methylene:methanol=95:5), and elution was again conducted to prepare 0.37 g (yield: 48%) of an intended product.

reactant | trans-3-benzyl-4-(3,4-dimethoxyphenyl)-2-pyrrolidone | 2.6 mmol, 0.81 g | C(C1=CC=CC=C1)[C@@H]1C(NC[C@H]1C1=CC(=C(C=C1)OC)OC)=O | C19H21NO3
reactant | hydrochloric acid | 6N | Cl | ClH
solvent | THF | C1CCOC1 | C4H8O
product | trans-3-Benzyl-4-(3,4-dimethoxyphenyl)-pyrrolidine | 0.37 g, yield: 48% | C(C1=CC=CC=C1)[C@@H]1CNC[C@H]1C1=CC(=C(C=C1)OC)OC | C19H23NO2
